US07737166B2
1-Fluoro-2-methoxy-5-methyl-3-nitrobenzene (I-25)
Under nitrogen atmosphere, potassium carbonate (218 mg, 1.58 mmol), tetrakistriphenylphosphine palladium(0) (58 mg, 50 μmol), trimethylboroxine (77 μl, 0.55 mmol) were added to a 1,4-dioxane (5 ml) solution of 4-bromo-2-fluoro-6-nitroanisole (125 mg, 0.5 mmol), followed by stirring with heating under reflux for 1 hour and a half. After cooling to room temperature, saturated sodium bicarbonate water was added to the reaction liquid, followed by extraction three times with ethyl acetate, the organic layer was washed with saturated brine, then dried over anhydrous magnesium sulfate. After filtration and concentration under reduced pressure, the resulting residue was subjected to column chromatography, and the eluate with n-hexane:ethyl acetate (20:1) was concentrated under reduced pressure to obtain the entitled compound (68 mg, 70%) as an orange oily substance.

reactant | potassium carbonate | 1.58 mmol, 218 mg | C([O-])([O-])=O.[K+].[K+]
reactant | trimethylboroxine | 0.55 mmol, 77 μl | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | 4-bromo-2-fluoro-6-nitroanisole | 0.5 mmol, 125 mg | BrC1=CC(=C(C(=C1)[N+](=O)[O-])OC)F | C7H5BrFNO3
reactant | sodium bicarbonate water | O.C([O-])(O)=O.[Na+]
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
product | 1-Fluoro-2-methoxy-5-methyl-3-nitrobenzene | 68 mg, 70% | FC1=C(C(=CC(=C1)C)[N+](=O)[O-])OC | C8H8FNO3
